US07148229B2
A solution of 2-(5-nitro-pyridin-2-yl)-malonic acid dibenzyl ester in a mixture of methanol, tetrahydrofuran, and water was treated with ammonium chloride (25 eq.) and zinc dust (>10 micron,10 eq.). The mixture was stirred at 25° C. for 40 min. At this time, the reaction was filtered through celite. The filtrate was concentrated in vacuo. The aqueous residue was extracted with ethyl acetate. The organics were washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo to afford 2-(5-amino-pyridin-2-yl)-malonic acid dibenzyl ester as a yellow viscous oil (89%); LRMS for C22H20N2O4 (M+H)+ at m/z=377.

reactant | 2-(5-nitro-pyridin-2-yl)-malonic acid dibenzyl ester | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)C1=NC=C(C=C1)[N+](=O)[O-])=O | C22H18N2O6
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
reactant | ammonium chloride | 25 eq. | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | zinc | 10 eq. | [Zn] | Zn
product | 2-(5-amino-pyridin-2-yl)-malonic acid dibenzyl ester | 89% | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)C1=NC=C(C=C1)N)=O | C22H20N2O4
